US07601844B2
To a solution of (R)-2-Amino-1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methylbutan-1-one hydrochloride (250 mg, 0.75 mmol) in DCM (2 mL) was added DIEA (175 μL, 1 mmol) followed by the dropwise addition of benzoylisothiocyanate (106 μL, 0.78 mmol). The reaction was stirred for 2 h at rt., acidified with 1 N aqueous HCl solution to pH 3 and then extracted with Et2O (3×10 mL). The extracts were combined, washed sequentially with sat. aqueous NaHCO3 solution (1×10 mL) and sat. aqueous NaCl solution (1×10 mL), dried (MgSO4), and the solvent removed to give (R)—N-(1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamothioyl)benzamide (m/z, 458, M+1) as an oil (300 mg) in greater than 90% HPLC purity.

reactant | (R)-2-Amino-1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methylbutan-1-one hydrochloride | 0.75 mmol, 250 mg | Cl.N[C@@H](C(=O)N1CCC(CC1)C1=CC=C(C=C1)Cl)C(C)C
reactant | DIEA | 1 mmol, 175 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzoylisothiocyanate | 0.78 mmol, 106 μL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | HCl | 1 N | Cl | ClH
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamothioyl)benzamide | 300 mg | ClC1=CC=C(C=C1)C1CCN(CC1)C([C@@H](C(C)C)NC(=S)NC(C1=CC=CC=C1)=O)=O | C24H28ClN3O2S
